US06579875B1
c) 6-Chloro-3-(2-fluorophenyl)-7-(thien-2-yl)-1,2,4-triazolo[4,3-b]pyridazine
A mixture of 3,6-dichloro-4-(thien-2-yl)pyridazine from above (0.5 g, 2.1 mmol), 2-fluorobenzhydrazide (0.66 g, 4,3 mmol) and triethylamine hydrochloride (0.59 g, 4,3 mmol) in p-xylene (10 ml) was stirred and heated at reflux under nitrogen for 30 hours. Upon cooling the volatiles were removed in vacuo. The residue was partly purified by chromatography on silica gel eluting with 50%→66%→100% ethyl acetate-hexane to give the title compound as a yellow solid (0.19 g, 26%). MS (ES+) m/e 331 [MH]+, 333 [MH]+. This material was used without further purification.

reactant | 3,6-dichloro-4-(thien-2-yl)pyridazine | ClC=1N=NC(=CC1C=1SC=CC1)Cl | C8H4Cl2N2S
reactant | 2-fluorobenzhydrazide | 4,3 mmol, 0.66 g | FC1=C(C(=O)NN)C=CC=C1 | C7H7FN2O
reactant | triethylamine hydrochloride | 4,3 mmol, 0.59 g | Cl.C(C)N(CC)CC
solvent | p-xylene | 10 ml | CC=1C=CC(=CC1)C | C8H10
product | 6-Chloro-3-(2-fluorophenyl)-7-(thien-2-yl)-1,2,4-triazolo[4,3-b]pyridazine | 0.19 g, 26% | ClC=1C(=CC=2N(N1)C(=NN2)C2=C(C=CC=C2)F)C=2SC=CC2 | C15H8ClFN4S
